US07612075B2
B. 4-(4-Carbamimidoylbenzyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester.
A solution of 4-(4-cyanobenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester (2.4 g, 6.87 mmol) in 30 mL of pyridine and 3 ml of Et3N is saturated with H2S. The resulting mixture is sealed and stirred for 16 hours. After this time, the solution is concentrated. The residue is dissolved in 30 mL of acetone and methyl iodide (19.4 g, 137 mmol) is added. The solution is refluxed for 2 hours. After this time, the solution is concentrated. The residue is dissolved in MeOH (40 mL) and NH4OAc (5.0 g, 65 mol) is added. The solution is reluxed for 3 hours. After this time, the solution is concentrated. The crude product is purified by RP-HPLC eluting in a gradient of CH3CN to 60% CH3CN/H2O(0.1%TFA). The appropriate collected fractions are lyophilized to give the product as a white foam. MS (FAB) m/z 367, (M+H).

reactant | 4-(4-cyanobenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester | 6.87 mmol, 2.4 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)=O | C20H19N3O3
reactant | H2S | S | H2S
reactant | methyl iodide | 137 mmol, 19.4 g | CI | CH3I
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | Et3N | 3 ml | CCN(CC)CC | C6H15N
product | 4-(4-Carbamimidoylbenzyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C(N)=N)=O | C20H22N4O3
